US05026707
Preparation of 2-Piperazinyl-6-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride.
A mixture consisting of 6-chloro-2-tetralone (5.41 g), piperazine (5.16 g), and 4A molecular sieves (8 g) in 100 ml of dry toluene was heated at reflux with stirring for a short period of time under nitrogen. The toluene was evaporated, and 100 ml of THF and 10 ml of methanol were added to the residue. Sodium cyanoborohydride (1.86 g) was added, the solution was stirred in the cold under nitrogen, and gaseous HCl was added portionwise periodically above the surface until the reaction solution remained acidic. After stirring at room temperature overnight, the sieves were filtered off, and the filtrate was evaporated to dryness. The residue was partitioned between 1N HCl and ether; the aqueous phase was separated and extracted twice with ether. The solution was made basic with sodium hydroxide. The oil which formed was extracted into ether, and the ether solution was dried over Na2SO4. Evaporation of the ether left of a solid (5.1 g). A solution of the solid in ethanol was treated with excess gaseous HCl. After chilling for a period of time, the crystals which had separated were filtered and washed with ethanol. After recrystallization from methanol there was obtained 2.64 g of the title compound. m.p. 264-265° C.

reactant | 6-chloro-2-tetralone | 5.41 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | piperazine | 5.16 g | N1CCNCC1 | C4H10N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Piperazinyl-6-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride | 2.64 g | Cl.Cl.N1(CCNCC1)C1CC2=CC=C(C=C2CC1)Cl | InChI=1S/C14H19ClN2.2ClH/c15-13-3-1-12-10-14(4-2-11(12)9-13)17-7-5-16-6-8-17;;/h1,3,9,14,16H,2,4-8,10H2;2*1H
